US03985907
PREPARATION OF (2-METHYL-3-FURYL)(1,1,3,3-TETRAMETHYLACETONYL)SULFIDE
Into a 25 ml round bottom 3 neck flask equipped with magnetic stirrer, Y tube, nitrogen inlet, reflux condenser, thermometer and heating mantle, is added 0.57 g (0.005 moles) 2-methyl-3-furan thiol in 3 ml absolute methanol and a solution of 0.27 g (0.005 moles) sodium methoxide in 3 ml of absolute methanol. After 10 minutes stirring, 0.74 g (0.005 moles) 2-chloro-2,4-dimethyl-3-pentanone in 1 ml absolute methanol is added slowly. The reaction mass is then warmed to 35° C using a hot water bath and while maintaining the temperature of the reaction mass at 35° C it is placed under a nitrogen blanket. The reaction mass is then heated to reflux (65°-66° C) and refluxed for a period of 1 hour. At the end of the 1 hour reflux period, the reaction mass is allowed to cool and is worked up by adding thereto 10 ml of water. The reaction mass, being at a basic pH (9-10), is acidified with dilute HCl bringing the pH down to 6. N-Hexane is added to the reaction mass giving rise to two phases; an aqueous phase and an organic phase. The aqueous phase is extracted with 2 × 10 ml of hexane. The hexane extracts are separated, combined, washed with saturated sodium chloride solution and then dried over anhydrous sodium sulfate. The resulting solution is then concentrated to a weight of 1.02 g and the desired compound is isolated using GLC apparatus (conditions: SE-30 Column, 8 foot × 1/4 inch). NMR, IR and Mass Spectral analyses confirm that the structure of the resulting material is: ##SPC20##

reactant | 2-methyl-3-furan thiol | 0.005 moles, 0.57 g | CC=1OC=CC1S | C5H6OS
reactant | sodium methoxide | 0.005 moles, 0.27 g | C[O-].[Na+]
reactant | 2-chloro-2,4-dimethyl-3-pentanone | 0.005 moles, 0.74 g | ClC(C)(C(C(C)C)=O)C | C7H13ClO
reactant | HCl | Cl | ClH
solvent | methanol | 3 ml | CO | CH4O
solvent | methanol | 3 ml | CO | CH4O
solvent | methanol | 1 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | (2-METHYL-3-FURYL)(1,1,3,3-TETRAMETHYLACETONYL)SULFIDE | CC=1OC=CC1SC(C(=O)C(C)C)(C)C | C12H18O2S
